US04456471
Preparation of 2-methyl-6(1'-methylprop-1-enyl)-N-chloroacetylaniline
0.007 mole of chloroacetyl chloride was added dropwise to a mixture of 0.007 moles of 2-methyl-6-(1-methylprop-1-enyl)-aniline and 0.008 moles (1.15 ml) of triethylamine in methylene chloride at about but below 20° C. The mixture was then refluxed and then allowed to stand overnight at room temperature. The mixture was then again refluxed and allowed to stand for two days (over the weekend) at room temperature. Thin layer chromatographic (plate) analysis showed the presence of a small amount of starting material. An additional 0.55 ml of triethylamine and 0.3 ml of chloroacetyl chloride was added and the mixture again refluxed and allowed to stand overnight at room temperature. The mixture was then washed with aqueous sodium bicarbonate, dried and evaporated affording 1.7 g of the title compound as a slightly crystallized oil (m.p. 71°-74° C.).

reactant | chloroacetyl chloride | 0.007 mole | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-methyl-6-(1-methylprop-1-enyl)-aniline | 0.007 moles | CC1=C(N)C(=CC=C1)C(=CC)C | C11H15N
reactant | triethylamine | 0.008 moles, 1.15 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methyl-6(1'-methylprop-1-enyl)-N-chloroacetylaniline | 1.7 g | CC1=C(NC(CCl)=O)C(=CC=C1)C(=CC)C | C13H16ClNO
